US04251543
A solution of 69.0 g of 2-methyl-2-(p-prenylphenyl)-1,3-dioxolane, 8 ml of 6 N hydrochloric acid and 400 ml of acetone was stirred at room temperature for 3 hours. A solution of 5.0 g of sodium hydrogen carbonate and 200 ml of water was added to the solution, which was extracted with ethyl ether after removal of the acetone. The ethereal solution was washed with water, dried, concentrated and distilled to give 54.6 g of p-prenylacetophenone, b.p. 110-112 °C/0.05 mmHg.

reactant | 2-methyl-2-(p-prenylphenyl)-1,3-dioxolane | 69.0 g | CC1(OCCO1)C1=CC=C(C=C1)CC=C(C)C | C15H20O2
reactant | hydrochloric acid | 6 N, 8 ml | Cl | ClH
reactant | acetone | 400 ml | CC(=O)C | C3H6O
reactant | sodium hydrogen carbonate | 5.0 g | C(O)([O-])=O.[Na+]
solvent | water | 200 ml | O | H2O
product | p-prenylacetophenone | 54.6 g | C(C=C(C)C)C1=CC=C(C=C1)C(C)=O | C13H16O
